US08227516B2
3-Cyclohexyl-acrylic acid:
to a solution of 3-Cyclohexyl-acrylic acid ethyl ester (7.00 g, 38.4 mmol) in dioxane (200 mL) was added lithium hydroxide (4.03 g, 96.1 mmol) dissolved-in-water (70 mL). Because LiOH fell out methanol (170 mL) was added to the reaction. After 4 hours at 70° C. ¾ of the solvent was removed in vacuo. 2 N HCl was added until the pH reached 3. The mixture was treated with ammonium chloride (150 mL) saturated solution. The product was extracted with dichloromethane (200 mL×3). The combined organic phases were washed with saturated sodium solution (50 mL) and dried with magnesium sulfate. After filtration the solvent was removed in vacuo. The liquid was left at room temperature for 48 hours for crystallization to occur. The colourless crystalline product (2.01 g, 13.1 mmol) was obtained in 34% yield. 1H NMR (300 MHz, [D6-DMSO]: δ=1.01-1.37 (m, 5H, cyclohexyl-CH2), 1.55-1.79 (m, 5H, cyclohexyl-CH2), 2.06-2.21 (m, 1H, cyclohexyl-CH); 5.69 (dd, J=15.7 Hz and J=1.5 Hz, 1H, C═C—H), 6.76 (dd, J=15.7 Hz and J=6.8 Hz, 1H, C═C—H), 12.01 (broad s, 1H, OH). 13C NMR (75 MHz, [D6-DMSO]: δ=25.1, 25.4, 31.1 (cyclohexyl-CH2), 39.4 (cyclohexyl-CH), 119.5 and 153.4 (C═C) 167.3 (COON). MS: m/z calcd for (C9H14O2) [M+H]+ 155; found 155.

reactant | 3-Cyclohexyl-acrylic acid ethyl ester | 38.4 mmol, 7.00 g | C(C)OC(C=CC1CCCCC1)=O | C11H18O2
reactant | lithium hydroxide | 96.1 mmol, 4.03 g | [OH-].[Li+]
reactant | LiOH | [Li+].[OH-]
reactant | methanol | 170 mL | CO | CH4O
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 3-Cyclohexyl-acrylic acid | 13.1 mmol, 2.01 g, 34% yield | C1(CCCCC1)C=CC(=O)O | C9H14O2
